US04636504
C. 6-{p-[3-(4-Phenylpiperidino)-propionylamino]-phenyl}-4,5-dihydro-3(2H)-pyridazinone
10 g (23.7 millimoles) of 3-{p-[3-(4-phenylpiperidino)-propionylamino]-benzoyl}-propionic acid were stirred with 1.2 g (23.7 millimoles) of hydrazine hydrate in 200 ml of ethanol for 5 hours at 80° C. The product was filtered off under suction and recrystallized from dimethylformamide/water. 7.6 g (78%) of 6-{p-[3-(4-phenylpiperidino)-propionylamino]-phenyl}-4,5-dihydro-3(2H)-pyridazinone.1/4H2O were obtained as colorless crystals of melting point 238°-240° C.

reactant | 3-{p-[3-(4-phenylpiperidino)-propionylamino]-benzoyl}-propionic acid | 23.7 millimoles, 10 g | C1(=CC=CC=C1)C1CCN(CC1)CCC(=O)NC1=CC=C(C(=O)CCC(=O)O)C=C1 | C24H28N2O4
reactant | hydrazine hydrate | 23.7 millimoles, 1.2 g | O.NN
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 6-{p-[3-(4-Phenylpiperidino)-propionylamino]-phenyl}-4,5-dihydro-3(2H)-pyridazinone | C1(=CC=CC=C1)C1CCN(CC1)CCC(=O)NC1=CC=C(C=C1)C=1CCC(NN1)=O | C24H28N4O2
